US04876249
Preparation of 2-(2-Dodecyl)-2-imidazoline
19.53 g (100 mmoles) of 2-cyanododecane, 8.5ml (127 mmoles) of ethylenediamine and 0.5 ml of carbon disulfide are reacted according to Example 29 and the reaction mixture is worked up as mentioned therein. Distillation of the residue gives 15.5 g (65%) of the product.

reactant | 2-cyanododecane | 100 mmoles, 19.53 g | C(#N)C(C)CCCCCCCCCC | C13H25N
reactant | ethylenediamine | 127 mmoles, 8.5ml | C(CN)N | C2H8N2
solvent | carbon disulfide | 0.5 ml | C(=S)=S | CS2
product | 2-(2-Dodecyl)-2-imidazoline | 15.5 g, 65% | CC(CCCCCCCCCC)C=1NCCN1 | C15H30N2
